US05354866
A. 5-(Carbethoxy)thiazole
According to the procedure of Mashraqui and Keehn (J. Am. Chem. Soc. 1982, log, 4461), ethyl α-chloro-α-formylacetate was condensed with thioformamide and vacuum distilled to provide 5.65 g (33%) of the desired compound.

reactant | ethyl α-chloro-α-formylacetate | ClC(C(=O)OCC)C=O | C5H7ClO3
reactant | thioformamide | C(=S)N | CH3NS
product | 5-(Carbethoxy)thiazole | 5.65 g, 33% | C(=O)(OCC)C1=CN=CS1 | C6H7NO2S
